US06166006
To a solution of ethyl 3-methoxy-4-trifluoromethanesulfonyloxybenzoate (3.95 g), 4-methylphenylacetylene (1.54 g) and triethylamine (5.0 ml) in DMF (40 ml) was added bistriphenylphosphine palladium dichloride (0.25 g), and the mixture was stirred at 100° C. for 3 hours and then cooled to room temperature. To the mixture was added water, and the mixture was extracted with diethylether. The organic layer was washed with saturated brine and dried with magnesium sulfate. Under reduced pressure, the mixture was concentrated, and the residue was purified with column chromatography (ethyl acetate/hexane=1:9) and recrystallized from ethyl acetate/hexane to give pale yellow crystals of ethyl 3-methoxy-4-[2-(4-methylphenyl)ethynyl]-benzoate (2.02 g).

reactant | ethyl 3-methoxy-4-trifluoromethanesulfonyloxybenzoate | 3.95 g | COC=1C=C(C(=O)OCC)C=CC1OS(=O)(=O)C(F)(F)F | C11H11F3O6S
reactant | 4-methylphenylacetylene | 1.54 g | CC1=CC=C(C=C1)C#C | C9H8
reactant | triethylamine | 5.0 ml | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
solvent | DMF | 40 ml | CN(C)C=O | C3H7NO
product | ethyl 3-methoxy-4-[2-(4-methylphenyl)ethynyl]-benzoate | 2.02 g | COC=1C=C(C(=O)OCC)C=CC1C#CC1=CC=C(C=C1)C | C19H18O3
